US06117841
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoylamino]-propionic acid tert-butyl ester
A solution of FMOC-leucine (10.3 g, 29 mmol) in 300 mL of DMF was cooled to 0° C. and treated with diisopropylethyl amine (73 mL) and HBTU (11.1 g, 29.2 mmol). The resulting solution was stirred at 0° C. for 30 minutes and treated with (S)-2-amino-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester (110 g, 36.9 mmol). The resulting solution was stirred for 30 minutes at 0° C. and warmed to room temperature. The reaction mixture was poured into 500 mL of ether and washed sequentially with IN aqueous HCl, saturated aqueous NaHCO3 (100 mL) and brine (5×100 mL). The organic phase was collected, dried over MgSO4 and concentrated to near dryness. The residue was triturated with hexane. The product was collected by suction filtration and air dried to give the title compound as a white solid (12.16 g, 70%); mp 158-160° C.

reactant | FMOC-leucine | 29 mmol, 10.3 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | diisopropylethyl amine | 73 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 29.2 mmol, 11.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-amino-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | 36.9 mmol, 110 g | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)N)=O | C20H25NO3
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | ether | 500 mL | CCOCC | C4H10O
product | 3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoylamino]-propionic acid tert-butyl ester | 12.16 g, 70% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NC1CCOCC1)=O)=O | C31H44N2O5
